US06469198B2
Optically active Salicylideneaminoalcohol compound were synthesized from optically active aminoalcohols and salicylaldehyde derivatives as in Reference Example 1 To a 100 ml Schlenk, 0.2 mmol of (R)-N-(5-nitrosalicylidene)-2-amino-1,1-di(2-butoxy-5-t-butylphenyl)-1-propanol were added 35.9 mg(0.18 mmol) of copper acetate monohydrate and 50 ml of toluene, and the resulting mixture was reacted for 1 hour under stirring at 80° C. The reaction mixture was cooled to a room temperature, and an aqueous solution of 40 mg of sodium hydroxide dissolved in 30 ml of water was added thereto. The mixture was transferred to a separatory funnel, and was thoroughly stirred, settled and the separated aqueous layer was removed. 10 ml of water was added thereto, stirred again and settled. The oily layer was transferred to a Schlenk tube and azeotropically dehydrated under heating to give the product. The product was diluted with toluene to make a 50 ml toluene solution of the optically active copper complex catalyst mixture.

reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | (R)-N-(5-nitrosalicylidene)-2-amino-1,1-di(2-butoxy-5-t-butylphenyl)-1-propanol | 0.2 mmol | [N+](=O)([O-])C1=CC=C(C(C=N[C@@H](C(O)(C2=C(C=CC(=C2)C(C)(C)C)OCCCC)C2=C(C=CC(=C2)C(C)(C)C)OCCCC)C)=C1)O | C38H52N2O6
reactant | sodium hydroxide | 40 mg | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | copper acetate monohydrate | 0.18 mmol, 35.9 mg | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Salicylideneaminoalcohol | C(C=1C(O)=CC=CC1)=NO | C7H7NO2
